US05179090
a.) trans-2,7-Diazabicyclo[4.4.0]decane
1,5-Naphthyridine (5.0 g, 38.4 mmoles) in 450 ml of amyl alcohol was heated under reflux and sodium (21.3 g, 0.92 mole) was added in portions to the reaction mixture over a period of 30 minutes. 84 ml of concentrated hydrochloric acid were then added. The organic phase was separated off, washed twice using water and the combined aqueous extracts were extracted a further two times using ether. The ether phases were discarded, the aqueous phase was rendered basic using caustic soda while cooling with ice and the desired product was removed by repeated extraction using dichloromethane. The combined dichloromethane phases were dried and concentrated under reduced pressure. Quantitative yield (5.8 q) of crystals of m.p. 174°-176° C. (ethyl acetate).

reactant | 1,5-Naphthyridine | 38.4 mmoles, 5.0 g | N1=CC=CC2=NC=CC=C12 | C8H6N2
reactant | sodium | 0.92 mole, 21.3 g | [Na] | Na
reactant | hydrochloric acid | 84 ml | Cl | ClH
solvent | amyl alcohol | 450 ml | C(CCCC)O | C5H12O
product | trans-2,7-Diazabicyclo[4.4.0]decane | Quantitative yield | [C@@H]12NCCC[C@@H]2NCCC1 | C8H16N2
